US06780872B2
4-[4-fluoro-3-(2-furyl)phenyl]-1,6,6-trimethyl-4,7,8,9-tetrahydro-1H-pyrazolo[3,4-b]quinoline-3,5(2H,6H)-dione
5-Amino-1-methyl-1,2-dihydropyrazol-3-one (0.11 g, 1 mmol), 4-fluoro-3-(2-furyl)-benzaldehyde (0.19 g, 1 mmol), and 4,4-dimethyl-1,3-cyclohexanedione (0.14 g, 1 mmol) were processed as described in Example 22 to provide 0.28 g (67%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 0.92 (s, 3H), 0.99 (s, 3H), 1.78 (t, 2H), 2.65 (m, 2H), 3.45 (s, 3H), 4.88 (s, 1H), 6.62 (m, 1H), 6.76 (m, 1H), 7.06 (m, 1H), 7.1 (t, 1H), 7.55 (dd, 1H), 7.81 (dd, 1H), 9.49 (s, 1H), 9.6 (s, 1H); MS (ESI−) m/z 406 (M−H)−; Anal. calcd for C23H22N3FO3: C, 67.80; H, 5.40; N, 10.3. Found: C, 68.05; H, 5.39; N, 10.25.

reactant | 5-Amino-1-methyl-1,2-dihydropyrazol-3-one | 1 mmol, 0.11 g | NC1=CC(NN1C)=O | C4H7N3O
reactant | 4-fluoro-3-(2-furyl)-benzaldehyde | 1 mmol, 0.19 g | FC1=C(C=C(C=O)C=C1)C=1OC=CC1 | C11H7FO2
reactant | 4,4-dimethyl-1,3-cyclohexanedione | 1 mmol, 0.14 g | CC1(C(CC(CC1)=O)=O)C | C8H12O2
product | 4-[4-fluoro-3-(2-furyl)phenyl]-1,6,6-trimethyl-4,7,8,9-tetrahydro-1H-pyrazolo[3,4-b]quinoline-3,5(2H,6H)-dione | 0.28 g, 67% | FC1=C(C=C(C=C1)C1C2=C(NC=3CCC(C(C13)=O)(C)C)N(NC2=O)C)C=2OC=CC2 | C23H22FN3O3
